* File: G1_INV1_N1.pex.netlist.pex
* Created: Mon Feb  7 09:58:32 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N1_VDD 1 6 18 Vss
c2 18 Vss 0.0209024f
r3 6 18 9.5694
r4 1 18 0.04668
.ends

.subckt PM_G1_INV1_N1_A 3 12 Vss
c1 3 Vss 0.00350306f
r2 3 12 0.0530455
.ends

.subckt PM_G1_INV1_N1_Z 1 8 Vss
c2 8 Vss 0.00177449f
r3 1 8 0.125036
.ends

